US09284312B2
To a solution of 7-(methoxycarbonyl)-1-methyl-8-nitroquinolinium trifluoromethanesulfonate (2.10 g, 5.30 mmol) in MeOH (27 mL) at 0° C. was added NaBH4 (200 mg, 5.30 mmol). The mixture was stirred at rt for 1 h. The resulting solution was quenched with saturated aqueous NH4Cl and extracted with CH2Cl2. The combined extracts were dried (Na2SO4) and concentrated to afford methyl 1-methyl-8-nitro-1,2-dihydroquinoline-7-carboxylate in pure form.

reactant | 7-(methoxycarbonyl)-1-methyl-8-nitroquinolinium trifluoromethanesulfonate | 5.30 mmol, 2.10 g | FC(S(=O)(=O)[O-])(F)F.COC(=O)C1=CC=C2C=CC=[N+](C2=C1[N+](=O)[O-])C
reactant | NaBH4 | 5.30 mmol, 200 mg | [BH4-].[Na+]
solvent | MeOH | 27 mL | CO | CH4O
product | methyl 1-methyl-8-nitro-1,2-dihydroquinoline-7-carboxylate | CN1CC=CC2=CC=C(C(=C12)[N+](=O)[O-])C(=O)OC | C12H12N2O4
